US07772407B2
Manganese dioxide (740 mg) was added to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-fluoro-5-(hydroxylmethyl)phenyl]-D-glucitol (0.5 g) in chloroform (10 ml), and the mixture was stirred for 24 hours. After filtration through celite, washing with chloroform was carried out, and the filtrate was concentrated. The resulting residue was dried to obtain 3-(-2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-5-fluorobenzaldehyde (0.4 g).

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-fluoro-5-(hydroxylmethyl)phenyl]-D-glucitol | 0.5 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC(=C1)CO)F | C41H41FO6
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 740 mg | [O-2].[O-2].[Mn+4]
product | 3-(-2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-5-fluorobenzaldehyde | 0.4 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C=1C=C(C=O)C=C(C1)F | C41H39FO6
